US07423159B2
A mixture of 5-(4-fluorophenyl)-1-methyl-1H-pyrazole-4-carbaldehyde (350 mg), sodium hydride (60% in oil, 120 mg), ethyl diethylphosphonoacetate (673 mg) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 1 hr. The reaction mixture was poured into water, and the precipitated solids were collected by filtration. After drying with airflow, the solids were dissolved in a mixed solvent of tetrahydrofuran (10 ml) and ethanol (10 ml). A 1N aqueous sodium hydroxide solution (5 ml) was added and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was poured into a 10% aqueous citric acid solution and the precipitated solids were collected by filtration, washed with water and dried with airflow to give (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylic acid (354 mg, 84%) as crystals. Recrystallization thereof from methanol-isopropyl ether gave colorless prism crystals. melting point: 212-213° C.

reactant | 5-(4-fluorophenyl)-1-methyl-1H-pyrazole-4-carbaldehyde | 350 mg | FC1=CC=C(C=C1)C1=C(C=NN1C)C=O | C11H9FN2O
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 673 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylic acid | 354 mg, 84% | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)O | C13H11FN2O2
